US06498172B1
{3-[(4-Pyrimidin-5-yl-benzylamino)- methyl]-phenoxy}-acetic acid tert-butyl ester
The title compound of Step A was prepared from (3-aminomethyl-phenoxy)-acetic acid tert-butyl ester, of Preparation 20, and 4-pyrimidin-5-yl-benzaldehyde, of Preparation 26, using the method described in Example 3, Step A, except that the reaction time for imine formation was 1.5 h and no triethylamine was used. 1H NMR (400 MHz, CDCl3) δ 9.18 (s, 1H), 8.93 (s, 2H), 7.65 (m, 1H), 7.48 (m, 3H), 7.24 (m, 1H), 6.94 (m, 2H), 6.77 (d, 1H), 4.51 (s, 2H), 3.85 (s, 2H), 3.79 (s, 2H), 1.46 (s, 9H); MS 406 (M+1).

reactant | (3-aminomethyl-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CN)=O | C13H19NO3
reactant | 4-pyrimidin-5-yl-benzaldehyde | N1=CN=CC(=C1)C1=CC=C(C=O)C=C1 | C11H8N2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | {3-[(4-Pyrimidin-5-yl-benzylamino)- methyl]-phenoxy}-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C=1C=NC=NC1)=O | C24H27N3O3
